US04263299
(d) 1-[3-(4-Benzyloxycoumarin-7-yloxy)propyl]-4-(4-chlorobenzyl)piperazine
To a solution of 4-benzyloxy-7-hydroxycoumarin (9.4 g, 0.035 mole) in dry NN-dimethylformamide (35 ml) was added sodium hydride (0.84 g; 0.035 mole) and the mixture stirred for 1 hour at 100° to complete formation of the sodium salt. To this was added a solution of 1-(4-chlorobenzyl)-4-(3-chloropropyl)piperazine (9.3 g; 0.035 mole) in dry NN-dimethylformamide (40 ml) over 1 hour and the resulting mixture stirred for 4 hours at 100°. The precipitated sodium chloride was filtered from the cooled mixture and the filtrate evaporated in vacuo to a red oil which was extracted with dry ether. Concentration of the extracts afforded 13.5 g (74%) of white crystalline material of m.p. (EtOH) 115°-116°, νmax (mull) 1725, 1625, 1610 cm-1. δ (CDCl3) 2.01 (2H, m); 2.48 (10H, m); 3.46 (2H, s); 4.07 (2H, t, J 6 Hz); 5.17 (2H, s); 5.65 (1H, s); 6.80 (2H, s); 7.27 (4H, s); 7.43 (5H, s); 7.72 (1H, d, J 9.6 Hz). (Found; C, 69.23; H, 6.12; Cl, 7.00; N, 5.22; C30H31ClN2O4 requires; C, 69.42; H, 6.02; Cl, 6.83; N, 5.40%).

reactant | 4-benzyloxy-7-hydroxycoumarin | 0.035 mole, 9.4 g | C(C1=CC=CC=C1)OC1=CC(OC2=CC(=CC=C12)O)=O | C16H12O4
reactant | sodium hydride | 0.035 mole, 0.84 g | [H-].[Na+]
reactant | sodium | [Na] | Na
reactant | 1-(4-chlorobenzyl)-4-(3-chloropropyl)piperazine | 0.035 mole, 9.3 g | ClC1=CC=C(CN2CCN(CC2)CCCCl)C=C1 | C14H20Cl2N2
product | 1-[3-(4-Benzyloxycoumarin-7-yloxy)propyl]-4-(4-chlorobenzyl)piperazine | 13.5 g, 74% | C(C1=CC=CC=C1)OC1=CC(OC2=CC(=CC=C12)OCCCN1CCN(CC1)CC1=CC=C(C=C1)Cl)=O | C30H31ClN2O4
